* PSpice Model Editor - Version 16.6.0
*$
* BA4584R/BA4584Y-M
*
* Rev.002 2016.May
*
* Low Noise Operational Amplifier 'Macromodel' Subcircuit
*
* All Rights Reserved Copyright (c) ROHM CO., LTD.
*
.subckt BA4584R OUT1 -IN1 +IN1 VCC +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 VEE +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 VCC VEE OUT1  ba4584r_sub
X_U2 +IN2 -IN2 VCC VEE OUT2  ba4584r_sub
X_U3 +IN3 -IN3 VCC VEE OUT3  ba4584r_sub
X_U4 +IN4 -IN4 VCC VEE OUT4  ba4584r_sub
.ends
*$
.SUBCKT ba4584r_sub +IN -IN VCC VEE OUT
R_R27         N227606 N165981  10 TC=0.001,0 
R_R24         N226095 VCC  1.4k TC=0.0037,0  
Q_Q17         N227264 N168651 VCC QP3 17
Q_Q1         N165977 -IN N164947 QP2 27
Q_Q50         N226799 N165981 N226803 QN1 10
Q_Q9         N165977 N165977 N165985 QN1 2
R_R23         VEE N165985  4k TC=0.001,0 
Q_Q49         N168651 N168651 VCC QP1 1   
C_C3         N227606 N227621  9.5p  TC=0,0             
R_R26         VEE N226803  32k TC=0.001,0 
G_G1         N168651 VEE N215189 VEE 1
R_R20         VEE N215189  43 TC=-0.0015,0.00001  
Q_Q2         N165981 +IN N164947 QP2 27
I_I5         VEE N215189 DC 1uAdc  
Q_Q51         N227621 N226803 VEE QN2 3
C_C2         VEE N165985  30p  TC=0,0 
R_R22         VEE N166000  4k TC=0.001,0 
Q_Q10         N165981 N165977 N166000 QN1 2
R_R25         N226799 VCC  900 TC=0.001,0 
Q_Q15         N164947 N168651 N226095 QP1 14.0
Q_Q52         VEE N168651 VCC QP4 42.0
R_R28         N227621 N233224  50k TC=0.001,0 
Q_Q53         VEE N227621 N233626 QP3 1
Q_Q54         VCC N227264 N233088 QN2 3.5
Q_Q55         N227264 N227264 N233224 QN1 4
Q_Q56         N227264 N233224 N227621 QN1 4
R_R29         OUT N233088  35 TC=0.001,0  
R_R30         N233626 OUT  80 TC=0.001,0
*
*
*
.model QN1 npn
+ is=5e-016
+ bf=380
+ nf=1
+ vaf=100
+ ikf=0.001
*
.model QN2 npn
+ is=5e-016
+ bf=400
+ nf=1
+ vaf=100
+ ikf=0.001
+ xtb=1
*
.model QP1 pnp
+ is=7e-016
+ bf=120
+ nf=1
+ vaf=45
+ ikf=2.0e-005
+ xti=2
*
.model QP2 pnp
+ is=5e-016
+ bf=137
+ nf=1
+ vaf=50
+ ikf=2.0e-005
+ xti=2
*
.model QP3 pnp
+ is=5e-016
+ bf=1400
+ nf=1
+ vaf=100
+ ikf=2e-005
+ xti=1.5
*
.model QP4 pnp
+ is=5e-016
+ bf=2000
+ nf=1
*+ vaf=70
+ vaf=150
+ ikf=2e-005
+ xti=1
.ends
*$
